US07812016B2
7-(5-Benzyl-4H-1,2,4-triazol-3-yl)-5-bromo-1,6-naphthyridin-8-ol
The title compound was prepared in a similar manner to that described in example 1 from 5-bromo-8-hydroxy-1,6-naphthyridine-7-carbonitrile (100 mg, 0.40 mmol) and phenylacetic hydrazide (120 mg, 0.80 mmol) to give a yellow solid (102 mg, 67%). 1H NMR (CDCl3/CD3OD): δ 9.03 (d, J=2.8 Hz, 1 H), 8.46 (d, J=8.0 Hz, 1 H), 7.62 (dd, J=8.4, 4.0 Hz, 1 H), 7.28-7.16 (m, 5 H), 4.12 (s, 2 H); MS m/z 382 (M+1).

reactant | 5-bromo-8-hydroxy-1,6-naphthyridine-7-carbonitrile | 0.40 mmol, 100 mg | BrC1=C2C=CC=NC2=C(C(=N1)C#N)O | C9H4BrN3O
reactant | phenylacetic hydrazide | 0.80 mmol, 120 mg | C1(=CC=CC=C1)CC(=O)NN | C8H10N2O
product | 7-(5-Benzyl-4H-1,2,4-triazol-3-yl)-5-bromo-1,6-naphthyridin-8-ol | C(C1=CC=CC=C1)C=1NC(=NN1)C1=NC(=C2C=CC=NC2=C1O)Br | C17H12BrN5O
